US04675328
23.2 g of 4-chloro-4'-aminobenzophenone, 92 g of epichlorohydrin and 7 g of potassium carbonate were heated at reflux for 15 hours. The excess epichlorohydrin was evaporated in vacuo and the solid residue was partitioned between water and chloroform. From the organic phase there was obtained 4-chloro-4'-[(2,3-epoxypropyl)amino]benzophenone which was recrystallized twice from methanol, m.p. 128°-129° C.

reactant | 4-chloro-4'-aminobenzophenone | 23.2 g | ClC1=CC=C(C(=O)C2=CC=C(C=C2)N)C=C1 | C13H10ClNO
reactant | epichlorohydrin | 92 g | C(Cl)C1CO1 | C3H5ClO
reactant | potassium carbonate | 7 g | C([O-])([O-])=O.[K+].[K+]
product | 4-chloro-4'-[(2,3-epoxypropyl)amino]benzophenone | ClC1=CC=C(C(=O)C2=CC=C(C=C2)NCC2CO2)C=C1 | C16H14ClNO2
